US08193199B2
Prepared according to Procedure H using (1S)-1-(8-chloro-2-(2-chloro-5-fluoro-phenyl)quinolin-3-yl)ethanamine (0.072 g, 0.215 mmol), 6-chloropurine (0.040 g, 0.26 mmol, 1.2 eq) and DIEA (0.42 mmol, 2.0 eq) in n-butanol (3 mL). N—((S)-1-(8-chloro-2-(2-chloro-5-fluorophenyl)quinolin-3-yl)ethyl)-9H-purin-6-amine [PI3Kδ IC50=8 nM] was obtained after purification as a white solid. 1H-NMR (MeOD) δ ppm 8.68 (s, 1H), 8.60 (s, 1H), 8.02-8.10 (m, 2H), 7.92-7.99 (m, 1H), 7.85-7.93 (m, 1H), 7.54-7.63 (m, 1H), 7.50 (dd, J=8.80, 4.89 Hz, 1H), 7.07 (td, J=8.61, 3.13 Hz, 1H), 5.48-5.65 (m, 1H), 1.71 (d, J=7.04 Hz, 3H), Mass Spectrum (ESI) m/e=454 (M+1).

reactant | (1S)-1-(8-chloro-2-(2-chloro-5-fluoro-phenyl)quinolin-3-yl)ethanamine | 0.215 mmol, 0.072 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC(=C1)F)Cl)[C@H](C)N | C17H13Cl2FN2
reactant | 6-chloropurine | 0.26 mmol, 0.040 g, 1.2 eq | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | DIEA | 0.42 mmol, 2.0 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | N—((S)-1-(8-chloro-2-(2-chloro-5-fluorophenyl)quinolin-3-yl)ethyl)-9H-purin-6-amine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC(=C1)F)Cl)[C@H](C)NC1=C2N=CNC2=NC=N1 | C22H15Cl2FN6
